US04035512
In 20 ml. of anhydrous tetrahydrofuran is dissolved 535 mg. of trans-6-benzyloxy-2-cyclobutylamino-1-hydroxy-5-methoxycarbonyl-1,2,3,4-tetrahydronaphthalene and with the addition of 200 mg. of lithium aluminum hydride, the solution is refluxed in a current of molecular nitrogen for 4 hours. After cooling, a 20 % solution of sodium hydroxide is added, followed by extraction with ethyl acetate. The ethyl acetate layer is washed with water, dried and concentrated under reduced pressure. The residue is recrystallized from ethyl acetate. The procedure provides trans-6-benzyloxy-2-cyclobutylamino-1-hydroxy-5-hydroxymethyl-1,2,3,4-tetrahydronaphthalene as colorless platelets melting at 156°-158° C. Yield 377 mg.

reactant | trans-6-benzyloxy-2-cyclobutylamino-1-hydroxy-5-methoxycarbonyl-1,2,3,4-tetrahydronaphthalene | C(C1=CC=CC=C1)OC=1C(=C2CC[C@H]([C@@H](C2=CC1)O)NC1CCC1)C(=O)OC | C23H27NO4
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | trans-6-benzyloxy-2-cyclobutylamino-1-hydroxy-5-hydroxymethyl-1,2,3,4-tetrahydronaphthalene | C(C1=CC=CC=C1)OC=1C(=C2CC[C@H]([C@@H](C2=CC1)O)NC1CCC1)CO | C22H27NO3
